US06348624B1
3-Hydroxy-2,4-difluoro-bromobenzene
A quantity of 40.2 ml of 2.0 M lithium diisopropylamine (LDA) is dissolved in 80 ml of TIF at −78° C. and 15.4 g of 2,4-difluorobromobenzene is added keeping the temperature below −65° C. The reaction is stirred at −65° C. for 2 hours and 6.6 ml of 6 M anhydrous t-butyl hydroperoxide is added. After warming at room temperature, 100 ml of water is added and the mixture acidified. The solvent is removed by evaporation and the aqueous layer extracted with ether. The extracts are dried and then concentrated to give the desired product.

reactant | lithium diisopropylamine | 2.0 M, 40.2 ml | C(C)(C)NC(C)C.[Li]
reactant | 2,4-difluorobromobenzene | 15.4 g | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | t-butyl hydroperoxide | 6 M, 6.6 ml | C(C)(C)(C)OO | C4H10O2
solvent | water | 100 ml | O | H2O
product | 3-Hydroxy-2,4-difluoro-bromobenzene | OC=1C(=C(C=CC1F)Br)F | C6H3BrF2O
